US04122260
(2-Formyl-1-pyrryl)acetic Acid
In a similar manner, when the halogenated alkanoic acids listed in Table 1 are substituted for bromoacetic acid and reacted with pyrrole-2-carboxaldehyde, the products listed in Table 1 are obtained.

reactant | bromoacetic acid | BrCC(=O)O | C2H3BrO2
reactant | pyrrole-2-carboxaldehyde | N1C(=CC=C1)C=O | C5H5NO
product | (2-Formyl-1-pyrryl)acetic Acid | C(=O)C=1N(C=CC1)CC(=O)O | C7H7NO3
